US07834021B2
N-[2-({(3R)-1-[trans-2-(Benzyloxy)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide.
To a stirred solution of (3R)-1-[trans-2-(benzyloxy)cyclohexyl]pyrrolidin-3-amine 2 HCl salt (0.14 g, 0.45 mmol) and (3-trifluoromethyl-benzoylamino)-acetic acid (0.111 g, 0.45 mmol) in CH2Cl2 (5 mL) was added Et3N (0.188 mL, 1.35 mmol) followed by EDC (0.0863 g, 0.45 mmol) and HOBt (0.069 g, 0.45 mmol). The mixture was stirred at room temperature overnight. Then the reaction mixture was diluted with EtOAc and washed with saturated Na2CO3 and brine. The organic layers was dried (MgSO4), concentrated and flash chromatographed (EtOAc to 10% MeOH/EtOAc) to give 0.186 g of the title compound. MS (EI) calcd: M+1=504.2; found: 504.4.

reactant | (3R)-1-[trans-2-(benzyloxy)cyclohexyl]pyrrolidin-3-amine 2 HCl salt | 0.45 mmol, 0.14 g | Cl.Cl.C(C1=CC=CC=C1)O[C@H]1[C@@H](CCCC1)N1C[C@@H](CC1)N
reactant | (3-trifluoromethyl-benzoylamino)-acetic acid | 0.45 mmol, 0.111 g | FC(C=1C=C(C(=O)NCC(=O)O)C=CC1)(F)F | C10H8F3NO3
reactant | Et3N | 1.35 mmol, 0.188 mL | CCN(CC)CC | C6H15N
reactant | EDC | 0.45 mmol, 0.0863 g
reactant | HOBt | 0.45 mmol, 0.069 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[2-({(3R)-1-[trans-2-(Benzyloxy)cyclohexyl]pyrrolidin-3-yl}amino)-2-oxoethyl]-3-(trifluoromethyl)benzamide | 0.186 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](CCCC1)N1C[C@@H](CC1)NC(CNC(C1=CC(=CC=C1)C(F)(F)F)=O)=O | C27H32F3N3O3
